US06821967B2
a. 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(methoxycarbonyl-methyl)-amide
Prepared analogously to Example 1 from glycine-methyl ester and 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid chloride.

reactant | glycine-methyl ester | COC(CN)=O | C3H7NO2
reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid chloride | BrCCCCC1(C2=CC=CC=C2C=2C=CC=CC12)C(=O)Cl | C18H16BrClO
product | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(methoxycarbonyl-methyl)-amide | COC(=O)CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCBr | C21H22BrNO3
